US05451677
2-(4-Aminophenyl)ethylcarbamic acid 1,1-dimethylethyl ester
A solution of 817 mg (6.00 mmol) of 2-(4-aminophenyl)ethylamine in 20 mL of tetrahydrofuran was treated with 1310 mg (6.00 mmol) of di-tert-butyl dicarbonate. After the reaction mixture was stirred at room temperature for 0.5 h, it was concentrated. Trituration from a solution of 5 mL of ether and 20 mL of hexane gave 1.04 g (73%) of the title compound as a pale yellow solid: 1H NMR (400 MHz, CDCl3) 6.94 (d, 2H, J=8.2 Hz), 6.59 (d, 2H, J=8.2 Hz), 4.51 (broad s, 1H), 3.58 (broad s, 2H), 3.27 (m, 2H), 2.63 (t, 2H, J=7.0 Hz), 1.38 (s, 9H). FAB MS m/z 237 (M+1).

reactant | 2-(4-aminophenyl)ethylamine | 6.00 mmol, 817 mg | NC1=CC=C(C=C1)CCN | C8H12N2
reactant | di-tert-butyl dicarbonate | 6.00 mmol, 1310 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(4-Aminophenyl)ethylcarbamic acid 1,1-dimethylethyl ester | 1.04 g, 73% | CC(C)(C)OC(NCCC1=CC=C(C=C1)N)=O | C13H20N2O2
